US07282499B2
A mixture of 1-[2-(1-phenyl-1,5,6,7-tetrahydro-indazol-4-ylidene)-ethyl]-pyridinium toluene-4-sulfonate (290 mg, 0.63 mmol) and morpholin (180 mg, 1, 5 mmol) in 15 mL of acetonitrile is refluxed during 4 hours, following the reaction by TLC. The solvent is next evaporated, the crude is diluted in ethyl acetate and washed three times with water. Then the organic phase is evaporated under reduced pressure. The crude thus obtained is purified by silica gel cgromatography giving (E)-4,5,6,7-tetrahydro-4-(2-(morpholin-4-yl)ethylidene)-1-phenyl-1H-indazole (110 mg, 0.36 mmol, 57%, beige solid, m.p=114-116° C.).

reactant | 1-[2-(1-phenyl-1,5,6,7-tetrahydro-indazol-4-ylidene)-ethyl]-pyridinium toluene-4-sulfonate | 0.63 mmol, 290 mg | C1(=CC=C(C=C1)S(=O)(=O)[O-])C.C1(=CC=CC=C1)N1N=CC=2C(CCCC12)=CC[N+]1=CC=CC=C1
reactant | morpholin | 5 mmol, 180 mg | N1CCOCC1 | C4H9NO
solvent | acetonitrile | 15 mL | C(C)#N | C2H3N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (E)-4,5,6,7-tetrahydro-4-(2-(morpholin-4-yl)ethylidene)-1-phenyl-1H-indazole | 0.36 mmol, 110 mg, 57% | N1(CCOCC1)C\C=C/1\C=2C=NN(C2CCC1)C1=CC=CC=C1 | C19H23N3O
